US05252580
Ethyl iodide (2.4 ml) was added to a solution of 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole (5.17 g) and sodium hydrogencarbonate (3.0 g) in 50 ml of acetonitrile and the solution was stirred at 70° C. over a bath for 3 hrs. After removal of the solvent by evaporation, water (60 ml) was added and the solution was extracted with chloroform. The extract was washed with brine and dried over magnesium sulfate. Purification of the crude product by silica gel column chromatography and crystallization from ethyl acetate of the eluates with methanol/chloroform (1/4) gave 1.5 g of 2-ethyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole.

reactant | Ethyl iodide | 2.4 ml | C(C)I | C2H5I
reactant | 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 5.17 g | C1NCCC2=C1NC1=CC=CC=C21 | C11H12N2
reactant | sodium hydrogencarbonate | 3.0 g | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-ethyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 1.5 g | C(C)N1CC=2NC3=CC=CC=C3C2CC1 | C13H16N2
